US07230011B2
7-Methoxy-9-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-2,3-dihydro-1H-pyrrolo[1,2-a]indole
To a solution of 7-methoxy-2,3-dihydro-1H-pyrrolo[1,2-a]indole (718 mg, 3.83 mmol) (Clark, R. D.; Muchowski, J. M.; Fisher, L. E.; Flippen, L. A.; Repke, D. B.; Souchet, M. Synthesis 10,871-878(1991); Ishikura, M.; Terashima, M. Tetrahedron Lett. 33, 6849-6852(1992)) in glacial AcOH (20 mL) at 60° C. was added H3PO4 (5.0 mL, 10 mmol, 2.0 N) and 1-methyl-4-piperidone (1.2 mL, 11.5 mmol). The reaction was heated for 1 h at 60° C., cooled to room temperature and poured into a mixture of ammonium hydroxide in ice water. This reaction mixture was extracted with ethyl acetate and washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure yielded 1.07 g (99%) of the title compound as a brown oil: MS (ES+): m/e 283.0 (M+1).

reactant | 7-methoxy-2,3-dihydro-1H-pyrrolo[1,2-a]indole | 3.83 mmol, 718 mg | COC1=CC=2C=C3N(C2C=C1)CCC3 | C12H13NO
reactant | H3PO4 | 10 mmol, 2.0 N, 5.0 mL | OP(=O)(O)O | H3O4P
reactant | 1-methyl-4-piperidone | 11.5 mmol, 1.2 mL | CN1CCC(CC1)=O | C6H11NO
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 7-Methoxy-9-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-2,3-dihydro-1H-pyrrolo[1,2-a]indole | 1.07 g, 99% | COC1=CC=2C(=C3N(C2C=C1)CCC3)C=3CCN(CC3)C | C18H22N2O
